US04220646
The procedure of Example 14 is followed but starting with 2-(7-chloro-1,8-naphthyridin-2-yl)-3-(piperazin-1-yl)carbonyloxy-isoindolin-1-one (2.12 g.), N,N'-dicyclohexylcarbodiimide (2.05 g.) in anhydrous methylene chloride (50 cc.) and trifluoroacetic acid (1.71 g.). The crude product, after it has been filtered off, is washed with diethyl ether (50 cc.). The product is then dissolved in methylene chloride (110 cc.). The solution is filtered and concentrated to dryness and the residue is washed again with diethyl ether (45 cc.). 2-(7-Chloro-1,8-naphthyridin-2-yl)-3-(4-trifluoroacetylpiperazin-1-yl)carbonyloxy-isoindolin-1-one (0.91 g.), which melts at 218° C., is thus obtained.

reactant | 2-(7-chloro-1,8-naphthyridin-2-yl)-3-(piperazin-1-yl)carbonyloxy-isoindolin-1-one | 2.12 g | ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1OC(=O)N1CCNCC1)=O | C21H18ClN5O3
reactant | N,N'-dicyclohexylcarbodiimide | 2.05 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | trifluoroacetic acid | 1.71 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 50 cc | C(Cl)Cl | CH2Cl2
product | 2-(7-Chloro-1,8-naphthyridin-2-yl)-3-(4-trifluoroacetylpiperazin-1-yl)carbonyloxy-isoindolin-1-one | 0.91 g | ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1OC(=O)N1CCN(CC1)C(C(F)(F)F)=O)=O | C23H17ClF3N5O4
